US06573270B1
2-{[5-amino-4-(1,3-benzodioxol-5-yl)-1-benzyl-1H-pyrazol-3-yl]oxy}ethyl acetate
To a stirred mixture of 5-amino-4-(1,3-benzodioxol-5-yl)-1-benzyl-1H-pyrazol-3-ol (30 g) (Preparation 59) and cesium carbonate (94.8 g) in anhydrous dimethylformamide (340 ml), under an atmosphere of nitrogen, 2-bromoethyl acetate (16.2 g) was added drop-wise over 10 minutes and the reaction was stirred overnight. The reaction was quenched by the addition of an aqueous solution of HCl (2N, 260 ml) then ethyl acetate (600 ml) and water (100 ml) were added. The aqueous phase was extracted with ethyl acetate (3×500 ml) and the combined organic fractions were washed with brine (500 ml) and dried over Na2SO4. The dark oil was purified by flash chromatography (heptane/EtOAc; 1/1) (silica, 1000 g) yielding of the title compound as a dark oil (22.5 g).

reactant | 5-amino-4-(1,3-benzodioxol-5-yl)-1-benzyl-1H-pyrazol-3-ol | 30 g | NC1=C(C(=NN1CC1=CC=CC=C1)O)C1=CC2=C(OCO2)C=C1 | C17H15N3O3
reactant | cesium carbonate | 94.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromoethyl acetate | 16.2 g | C(C)(=O)OCCBr | C4H7BrO2
solvent | dimethylformamide | 340 ml | CN(C=O)C | C3H7NO
product | 2-{[5-amino-4-(1,3-benzodioxol-5-yl)-1-benzyl-1H-pyrazol-3-yl]oxy}ethyl acetate | 22.5 g | C(C)(=O)OCCOC1=NN(C(=C1C1=CC2=C(OCO2)C=C1)N)CC1=CC=CC=C1 | C21H21N3O5
